US05216026
Preparation of N-(4-fluorophenyl)-N'-cyclopentanesulfonylurea
The general method of procedure B was followed with cyclopentanesulfonamide (7.45 g), sodium methoxide (2.7 g), methanol (200 ml), tetrahydrofuran (200 ml), and 4-fluorophenyl isocyanate (6.85 g). The residue was dissolved in water and the solution acidified with 1N HCl. The resulting solid was separated and recrystallized from benzene to give 2.9 g of white solid with a melting point of 155°-157° C.

reactant | cyclopentanesulfonamide | 7.45 g | C1(CCCC1)S(=O)(=O)N | C5H11NO2S
reactant | sodium methoxide | 2.7 g | C[O-].[Na+]
reactant | 4-fluorophenyl isocyanate | 6.85 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
product | N-(4-fluorophenyl)-N'-cyclopentanesulfonylurea | 2.9 g | FC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1CCCC1 | C12H15FN2O3S
